US07125901B2
4-[(E)-2-(4-Nitrophenyl)ethenyl]-1,3-thiazol-2-amine (300 mg) and N,N-dimethylaniline (4 ml) were combined under nitrogen atmosphere, and then benzoyl chloride (0.31 ml) was added dropwise to the suspension. The reaction mixture was stirred at 110° C. for 2 hours. After cooled to room temperature, the mixture was diluted with ethyl acetate. The organic solution was washed with 1N hydrochloric acid, water, saturated sodium hydrogen carbonate solution and saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated in vacuo. The residual solid was washed with ethyl ether to give N-{4-[(E)-2-(4-nitrophenyl)ethenyl]-1,3-thiazol-2-yl}benzamide (298.6 mg) as a yellow solid.

reactant | 4-[(E)-2-(4-Nitrophenyl)ethenyl]-1,3-thiazol-2-amine | 300 mg | [N+](=O)([O-])C1=CC=C(C=C1)/C=C/C=1N=C(SC1)N | C11H9N3O2S
reactant | N,N-dimethylaniline | 4 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | benzoyl chloride | 0.31 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{4-[(E)-2-(4-nitrophenyl)ethenyl]-1,3-thiazol-2-yl}benzamide | 298.6 mg | [N+](=O)([O-])C1=CC=C(C=C1)/C=C/C=1N=C(SC1)NC(C1=CC=CC=C1)=O | C18H13N3O3S
